US06462198B1
(9H-Xanthene-9-carbonyl)-carbamic acid ethyl ester
To a stirred solution of urethane (0.82 g, 9.21 mmol) and DMAP (0.05 g, 0.41 mmol) in pyridine (10 ml) was added at 0° C. 9H-xanthene-9-carbonyl chloride (1.50 g, 6.13 mmol). Stirring was continued at RT for 17 h, the reaction mixture was evaporated and water (50 ml)/sat. NaHCO3 solution (20 ml) was added. The solid was filtered off and crystallized from water and afterwards from EtOH/hexane to give the product (1.22 g, 67%) as a white solid, m.p. 228° C. (dec.) and MS: m/e=298.2 (M+H+).

reactant | urethane | 9.21 mmol, 0.82 g | NC(=O)OCC | C3H7NO2
reactant | 9H-xanthene-9-carbonyl chloride | 6.13 mmol, 1.50 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)Cl | C14H9ClO2
catalyst | DMAP | 0.41 mmol, 0.05 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (9H-Xanthene-9-carbonyl)-carbamic acid ethyl ester | 1.22 g, 67% | C(C)OC(NC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12)=O | C17H15NO4
